US07067540B2
(4-{[4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]methyl}phenyl)acetic acid
3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one(0.5 g, 1.78 mmol) was dissolved in N,N-dimethylformamide (5 mL). 4-(Bromomethyl)phenylacetic acid (0.5 g, 2.14 mmol) was added followed by K2CO3 (0.3 g, 2.14 mmol). The reaction was heated to 80° C. and shaken for 16 hours, then heated to 100° C. and shaken for 16 hours more. The reaction mixture was partitioned between water and ethyl acetate and extracted with ethyl acetate (2×50 mL). The aqueous layer was acidified (pH 2) with 1N HCl and extracted with ethyl acetate (3×50 ml). The organic extracts were combined, washed with brine, dried over Na2SO4, and filtered. The filtrate was concentrated to an oil, and purified by chromatography (silica gel, hexane/ethyl acetate) followed by reversed phase chromatography (C18, 0.1% aqueous trifluoroacetic acid /acetonitrile) to yield a white solid (25 mg, 3%). 1H NMR (400 MHz, CDCl3) δ 7.40-7.38 (m, 3H), 7.25-7.20 (m, 7H), 6.05 (d, J=8.0 Hz, 1H), 5.21 (s, 2H); 5.13, (s, 2H); 3.62, (s, 2H). ES HRMS m/z 428.0510 (M+H C21H18BrNO4 requires 428.0492).

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 1.78 mmol, 0.5 g | BrC=1C(NC(=CC1OCC1=C(C=C(C=C1)F)F)C)=O | C13H10BrF2NO2
reactant | 4-(Bromomethyl)phenylacetic acid | 2.14 mmol, 0.5 g | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
reactant | K2CO3 | 2.14 mmol, 0.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (4-{[4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]methyl}phenyl)acetic acid | 25 mg, 3% | C(C1=CC=CC=C1)OC1=C(C(N(C=C1)CC1=CC=C(C=C1)CC(=O)O)=O)Br | C21H18BrNO4
